US06468998B1
9,10-Dihydroanthracene-9-carboxylic acid and (S)-3-amino-1-(2-phenylethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-9,10-dihydroanthracene-9-carboxamide.

reactant | 9,10-Dihydroanthracene-9-carboxylic acid | C1=CC=CC=2CC3=CC=CC=C3C(C12)C(=O)O | C15H12O2
reactant | (S)-3-amino-1-(2-phenylethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=CC=C1 | C12H18N2
product | (S)-N-(1-(2-phenylethyl)pyrrolidin-3-yl)-9,10-dihydroanthracene-9-carboxamide | C1(=CC=CC=C1)CCN1C[C@H](CC1)NC(=O)C1C2=CC=CC=C2CC=2C=CC=CC12 | C27H28N2O
